US06277778B1
2-(tert-butyldimethylsiloxy)-4,7-dimethylindene
To a solution of tert-butyldimethylchlorosilane (2.85 g, 18.9 mmol) and 4,7-dimethyl-2-indanone (2.53 g, 15.8 mmol, obtained by oxidation of 4,7-dimethylindene) in benzene (30 mL) was added DBU (3.13 g, 20.5 mmol) and the reaction mixture was stirred for 2 hours at room temperature. The mixture was diluted with Et2O (50 mL), washed with water (2×50 mL), 5% HCl (50 mL) water (2×50 mL) and dried over sodium sulphate. Evaporation of the solvents left a dark oil that was dissolved in pentane (30 mL). The unreacted starting materials were crystallized at −15° C. and removed by filtration. Evaporation of the solvent gave 3.03 g (69.9%) of fairly pure title compound as an orange oil. 1H NMR (CDCl3, δ): 6.94 (dq, 3J=7.7 Hz, 4J=0.3 Hz, 1H),; 6.78 (dq, 3J=7.7 Hz, 4J=0.3 Hz, 1H); 5.84 (t, 4J=1.1 Hz, 1H); 3.20 (m, 2H); 2.30 (s, 3H); 2.25 (s, 3H); 1.00 (s, 9H); 0.27 (s, 6H); 13C NMR (CDCl3, δ): 162.08; 143.39; 134.89; 129.45; 127.78; 125.49; 123.84; 105.28; 38.80; 25.65; 18.29; 18.21; −4.57.

reactant | tert-butyldimethylchlorosilane | 18.9 mmol, 2.85 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 4,7-dimethyl-2-indanone | 15.8 mmol, 2.53 g | CC1=C2CC(CC2=C(C=C1)C)=O | C11H12O
reactant | DBU | 20.5 mmol, 3.13 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 2-(tert-butyldimethylsiloxy)-4,7-dimethylindene | O([Si](C)(C)C(C)(C)C)C=1CC2=C(C=CC(=C2C1)C)C | C17H26OSi
